US07368579B2
4-Nitro-2-(4-nitrophenylthio)imidazole (500 mg) and N,N-dimethylformamide (1.6 ml) suspension of 2-methyl-2-oxiranylmethyl (S)-4-nitrobenzenesulfonate (513 mg), potassium carbonate (337 mg) and cesium fluoride (57 mg) were stirred at a room temperature for 1.5 days. Water and ethyl acetate were added to the reaction mixture and the organic layer was taken by separation. The ethyl acetate layer was washed with water and an aqueous solution being saturated with sodium chloride, then dried over anhydrous sodium sulfate. The residue obtained by removal of the solvent by distillation was purified by use of a basic silica gel column chromatography (eluent: n-hexane/ethyl acetate=13/7 to 11/9), there was obtained (R)-1-(2-methyl-2-oxiranylmethyl)-4-nitro-2-(4-nitrophenylthio)imidazole (456 mg, yield: 74%) as pale yellow powder product.

reactant | 4-Nitro-2-(4-nitrophenylthio)imidazole | 500 mg | [N+](=O)([O-])C=1N=C(NC1)SC1=CC=C(C=C1)[N+](=O)[O-] | C9H6N4O4S
reactant | N,N-dimethylformamide | 1.6 ml | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 337 mg | C([O-])([O-])=O.[K+].[K+]
reactant | cesium fluoride | 57 mg | [F-].[Cs+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | (R)-1-(2-methyl-2-oxiranylmethyl)-4-nitro-2-(4-nitrophenylthio)imidazole | 456 mg, yield: 74% | C[C@@]1(OC1)CN1C(=NC(=C1)[N+](=O)[O-])SC1=CC=C(C=C1)[N+](=O)[O-] | C13H12N4O5S
